US06281227B1
A. 3-(5-Methyl-thiophen-2-yl)-acrylic acid methyl ester
To 5-methyl-thiophene-2-carboxaldehyde (5 g, 40 mmol) in CH2Cl2 (100 mL) is added methyl (triphenylphosphoranylidene) acetate (13.3 g, 40 mmol). The solution is stirred for 72 hours. After this time, the solution is concentrated. The residue is slurried in Et2O. The solution is filtered through a bed of Celite. The collected liquid is concentrated. The residue is purified by column chromatography eluting with a gradient of 50% EtOAc/hexanes to 60% EtOAc/hexanes to give the title compound (4.5 g, 25 mmol) as an oil.

reactant | 5-methyl-thiophene-2-carboxaldehyde | 40 mmol, 5 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | methyl (triphenylphosphoranylidene) acetate | 40 mmol, 13.3 g | COC(=O)C=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C21H19O2P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Methyl-thiophen-2-yl)-acrylic acid methyl ester | 25 mmol, 4.5 g | COC(C=CC=1SC(=CC1)C)=O | C9H10O2S
